US09315521B2
2-{[(2,4-dichloro-1,3-thiazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
A mixture of 5-(bromomethyl)-2,4-dichloro-1,3-thiazole, 6-methyl-2-sulfanylpyrimidin-4-ol (500 mg, 3.5 mmol), and triethylamine (2.5 mL, 18.0 mmol) in absolute ethanol (20 mL) was stirred at room temperature overnight. The solid material was removed by filtration. The filtrate was evaporated and then co-evaporated with EtOAc (20 mL). The solid residue was treated with water (100 mL). The solid product was recovered by filtration, washed with water (2×20 mL), diethyl ether (2×20 mL), and hexanes (2×20 mL), and then dried in vacuo. The crude product was purified by flash chromatography (0-5% MeOH/CH2Cl2), affording the title compound (778 mg, 72% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.27 (s, 3H), 4.46 (s, 2H), 6.09 (s (br), 1H); M+310.

reactant | 5-(bromomethyl)-2,4-dichloro-1,3-thiazole | BrCC1=C(N=C(S1)Cl)Cl | C4H2BrCl2NS
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 3.5 mmol, 500 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 18.0 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-{[(2,4-dichloro-1,3-thiazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 778 mg, 72% yield | ClC=1SC(=C(N1)Cl)CSC1=NC(=CC(=N1)O)C | C9H7Cl2N3OS2
